US05658902
Step 2: 6-iodo-2-trifluoromethyl-3H-quinazolin-4-one
6-iodo-2-trifluoromethyl-benzo[d][1,3] oxazin-4-one (0.6 g, 1.76 mmole) was stirred with 25 mL of concentrated ammonia water at 40° C. for 5 h, cooled to 0° C., the precipitate was filtered and dried under vacuo. The product was recrystallized from ethyl acetate and haxanes to give 0.58 g, mp >255° C. (sub), MS (CI): m/z 341 (MH)+.

reactant | 6-iodo-2-trifluoromethyl-benzo[d][1,3] oxazin-4-one | 1.76 mmole, 0.6 g | IC1=CC2=C(N=C(OC2=O)C(F)(F)F)C=C1 | C9H3F3INO2
reactant | ammonia water | 25 mL | O.N
product | 6-iodo-2-trifluoromethyl-3H-quinazolin-4-one | IC=1C=C2C(NC(=NC2=CC1)C(F)(F)F)=O | C9H4F3IN2O
